US08686022B2
Tert-butyl(3-amino-5-tert-butyl-2-methoxy-phenyl)-carbamate
3.2 g 5-tert-butyl-2-methoxy-1,3-diamino-benzene are dissolved in 50 ml acetonitrile, combined with 3.78 g di-tert.-butyl-dicarbonate and 20 mg 4-dimethylamino-pyridine and stirred for 12 hours at ambient temperature. The solvents are eliminated in vacuo and the residue is chromatographed on silica gel (cyclohexane/ethyl acetate 95:5 to 50:50).

reactant | 5-tert-butyl-2-methoxy-1,3-diamino-benzene | 3.2 g | C(C)(C)(C)C=1C=C(C(=C(C1)N)OC)N | C11H18N2O
reactant | di-tert.-butyl-dicarbonate | 3.78 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
catalyst | 4-dimethylamino-pyridine | 20 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | Tert-butyl(3-amino-5-tert-butyl-2-methoxy-phenyl)-carbamate | C(C)(C)(C)OC(NC1=C(C(=CC(=C1)C(C)(C)C)N)OC)=O | C16H26N2O3
